US06677345B1
1.5Preparation of 2-Amino-4-cyclohexylmethoxy-6-(4-methoxybenzyl)amino-5-pyrimidine Carbaldehyde (NU6056)
The mixture of 2-Amino-4-cyclohexylmethoxy-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde and cyclohexylmethanol obtained previously was stirred in trifluoroacetic acid (2 ml) for 18 h. Excess trifluoroacetic acid was removed, and the residue extracted with ethyl acetate and water (50 ml each) Further ethyl acetate was added to the aqueous layer, and the organic components combined, dried and evaporated. The residual brown oil was applied to a silica column, eluting with 20% EtOAc/petrol (40:60). A pale yellow oil was obtained. Addition and removal of acetonitrile gave a solid which was recrystallised from a petrol/ethyl acetate mixture (0.091 g; 0.34 mmol) M.p. 97° C.

reactant | 2-Amino-4-cyclohexylmethoxy-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde | NC1=NC(=C(C(=N1)OCC1CCCCC1)C=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C28H34N4O4
reactant | cyclohexylmethanol | C1(CCCCC1)CO | C7H14O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-4-cyclohexylmethoxy-6-(4-methoxybenzyl)amino-5-pyrimidine Carbaldehyde | NC1=NC(=C(C(=N1)OCC1CCCCC1)C=O)NCC1=CC=C(C=C1)OC | C20H26N4O3
